US05250522
To a solution of (S)-4-(biphenyl-4-yl)-3-[(dimethylphosphonomethyl)-amino]-butyric acid methyl ester (851 mg, 2.26 mmol) in methanol (2 mL) is added 2N sodium hydroxide (1.5 mL, 3 mmol). After 1 hour of stirring, methanol is removed under vacuum and water (5 mL) is added to the residue. The aqueous layer is washed with ethyl acetate (10 mL), then acidified with 1N hydrochloric acid (4 mL). The residue is extracted with ethyl acetate (2×10 mL) and methylene chloride (10 mL). The combined organic layers are dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield (S)-4-(biphenyl-4-yl)-3-[(dimethylphosphonomethyl)-amino]-butyric acid as a gummy solid.

reactant | (S)-4-(biphenyl-4-yl)-3-[(dimethylphosphonomethyl)-amino]-butyric acid methyl ester | 2.26 mmol, 851 mg | COC(C[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NCP(=O)(OC)OC)=O | C20H26NO5P
reactant | sodium hydroxide | 3 mmol, 2N, 1.5 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | (S)-4-(biphenyl-4-yl)-3-[(dimethylphosphonomethyl)-amino]-butyric acid | C1(=CC=C(C=C1)C[C@@H](CC(=O)O)NCP(=O)(OC)OC)C1=CC=CC=C1 | C19H24NO5P
